* Z:\mnt\design.r\spice\examples\1041.asc
V1 N001 0 5
R1 N001 N006 100K
C1 N006 0 .001µ
V2 N003 0 PULSE(0 5 0 5m 5m 0 10m)
R2 N005 N007 90K
R3 N001 N005 100K
R4 N007 0 10K
XU1 N002 N003 N005 0 N007 N006 N004 N001 LTC1041
.tran  10m
.lib LTC1041.sub
.backanno
.end
